US04144047
Preparation of 3-(3,4- Dichlorophenyl)-4,5-Isothiazoledicarboxylic Acid.
A mixture of 51.9 g (0.15 mol) of dimethyl 3-(3,4-dichlorophenyl)-4,5-isothiazoledicarboxylate and 30 g (0.75 mol) of NaOH in 150 ml of water was held at reflux for 2 hours, was cooled, acidified with HCl, and was extracted with ether several times (total ether volume equals 1300 ml). The ether solution was dried (CaSO4) and concentrated to give 46.12 g of solid. A small sample was recrystallized twice from water and once from ether-dichloroethane to give pure product, m.p. 187.5 -188.5° with decomposition (fast).

reactant | dimethyl 3-(3,4-dichlorophenyl)-4,5-isothiazoledicarboxylate | 0.15 mol, 51.9 g | ClC=1C=C(C=CC1Cl)C1=NSC(=C1C(=O)OC)C(=O)OC | C13H9Cl2NO4S
reactant | NaOH | 0.75 mol, 30 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 150 ml | O | H2O
product | 3-(3,4- Dichlorophenyl)-4,5-Isothiazoledicarboxylic Acid | 46.12 g | ClC=1C=C(C=CC1Cl)C1=NSC(=C1C(=O)O)C(=O)O | C11H5Cl2NO4S
